US04654343
N-Ethyl-N[3-[3-(ethylamino)-1,2,4-triazolo[4,3-b]pyridazin-6-yl]phenyl]acetamide
A solution of 7.0 g N-ethyl-N-[3-(6-chloro-3-pyridazinyl)phenyl]acetamide and 6.0 g 4-ethyl-3-thiosemicarbazide in 200 ml ethanol was refluxed for 18 hours. The mixture was then worked up and the product chromatographed as described in Example 70. Recrystallization of the product from dichloromethane-hexane afforded 2.1 g yellow flakes, mp 171°-172° C.

reactant | N-ethyl-N-[3-(6-chloro-3-pyridazinyl)phenyl]acetamide | 7.0 g | C(C)N(C(C)=O)C1=CC(=CC=C1)C=1N=NC(=CC1)Cl | C14H14ClN3O
reactant | 4-ethyl-3-thiosemicarbazide | 6.0 g | C(C)NC(NN)=S | C3H9N3S
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-Ethyl-N[3-[3-(ethylamino)-1,2,4-triazolo[4,3-b]pyridazin-6-yl]phenyl]acetamide | C(C)N(C(C)=O)C1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)NCC | C17H20N6O
